US07691841B2
A solution of (6-Ethoxy-benzothiazol-2-ylsulfanyl)-acetic acid (0.087 g, 0.326 mmol) in dichloromethane (3 ml) is treated with triethylamine (0.041 ml, 0.326 mmol) and [(Benzotriazol-1-yloxy)-dimethylamino-methylene]-dimethyl-ammonium; tetrafluoro borate (0.104 g, 0.326 mmol) and stirred at ambient temperature for 3 minutes. To the reaction mixture is added a solution of C-[1-(3,4-Dichloro-benzyl)-azetidin-3-yl]-methylamine (0.08 g, 3.26 mmol) in dichloromethane (1 ml), with stirred for a further 3 hours. The reaction mixture is partitioned between ethyl acetate and sodium bicarbonate solution. The organic phase is dried over magnesium sulphate and evaporated. The crude product is purified by flash silica chromatography using 95:5 dichloromethane:methanol as eluent to afford N-[1-(3,4-Dichloro-benzyl)-azetidin-3-ylmethyl]-2-(6-ethoxy-benzothiazol-2-ylsulfanyl)-acetamide. [MH]+ 495.8.

reactant | (6-Ethoxy-benzothiazol-2-ylsulfanyl)-acetic acid | 0.326 mmol, 0.087 g | C(C)OC1=CC2=C(N=C(S2)SCC(=O)O)C=C1 | C11H11NO3S2
reactant | triethylamine | 0.326 mmol, 0.041 ml | C(C)N(CC)CC | C6H15N
reactant | [(Benzotriazol-1-yloxy)-dimethylamino-methylene]-dimethyl-ammonium | N1(N=NC2=C1C=CC=C2)OC(N(C)C)=[N+](C)C
reactant | tetrafluoro borate | 0.326 mmol, 0.104 g | [B-](F)(F)(F)F.CCCC[P+](CCCC)(CCCC)C1SC(=C(S1)C(=O)OC)C(=O)OC
reactant | C-[1-(3,4-Dichloro-benzyl)-azetidin-3-yl]-methylamine | 3.26 mmol, 0.08 g | ClC=1C=C(CN2CC(C2)CN)C=CC1Cl | C11H14Cl2N2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | N-[1-(3,4-Dichloro-benzyl)-azetidin-3-ylmethyl]-2-(6-ethoxy-benzothiazol-2-ylsulfanyl)-acetamide | ClC=1C=C(CN2CC(C2)CNC(CSC=2SC3=C(N2)C=CC(=C3)OCC)=O)C=CC1Cl | C22H23Cl2N3O2S2
